* Schematics Netlist *



R_R1         0 $N_0001  1k  
L_L1         $N_0002 $N_0003  100mH  
C_C3         $N_0003 $N_0001  100n  
V_V5         $N_0002 0 DC 0V AC 1V 
